US06303593B1
3-(4-Fluorophenyl)propyliodide
To a solution of 2.26 g (14.65 mmol) of 3-(4-fluorophenyl propanol and 3.6 mL (44 mmol) of pyridine in 40 mL of CH2Cl2 at 0° C. was added 5.1 g (29.3 mmol) of methanesulfonic anhydride and the reaction mixture was sitirred for 4 h at rt. The reaction mixture was partitioned between 100 mL of CH2Cl2 and 20 of sat'd NaHCO3 solution. The organic fraction was washed 3 times with sat'd NaHCO3 solution and sat'd NaCl solution, dried over MgSO4 and the filtrate was concentrated several times from heptane to remove pyridine. To the residue in 50 mL of acetone was added 6 g (44 mmol) of LiI and the reaction mixture was Stirred for 20 hr. The reaction mixture was poured into 200 mL of H2O and extracted with ether. The combined organic fractions were washed with sat'd NaCl solution, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes: ethyl acetate, 9:1) to give 3.25 g of the title compound.

reactant | 4-fluorophenyl propanol | FC1=CC=C(C=C1)C(CC)O | C9H11FO
reactant | pyridine | 44 mmol, 3.6 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic anhydride | 29.3 mmol, 5.1 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | LiI | 44 mmol, 6 g | [Li+].[I-]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | H2O | 200 mL | O | H2O
product | 3-(4-Fluorophenyl)propyliodide | 3.25 g | FC1=CC=C(C=C1)CCCI | C9H10FI
